US08071584B2
5-Bromo-1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid
To a stirred solution of 1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid (6.9 g, 0.025 mol) in DCM (140 mL) was added NBS (4.8 g, 0.027 mol). The reaction mixture was stirred at room temperature for 3 h. The reaction mixture was washed with water (3×75 mL) and brine (1×75 mL), dried (Na2SO4) and concentrated under reduced pressure, giving 8.3 g (92%) of the title compound.

reactant | 1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | 0.025 mol, 6.9 g | CC(C)(C)OC(=O)N1CCC2=CC=C(C(=C12)C(=O)O)F | C14H16FNO4
reactant | NBS | 0.027 mol, 4.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 140 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | 8.3 g, 92% | BrC=1C=C2CCN(C2=C(C1F)C(=O)O)C(=O)OC(C)(C)C | C14H15BrFNO4
